US09145413B2
a. (R)-3-[N′-(5-Fluoro-pyridin-2-yl)-hydrazinocarbonyl]-morpholine-4-carboxylic acid tert-butyl ester (Intermediate 83a)
To a solution of (5-fluoro-pyridin-2-yl)-hydrazine (143 mg, 1.13 mmol) in DCM (10.0 mL) was added (R)-morpholine-3,4-dicarboxylic acid 4-tert-butyl ester (260 mg, 1.13 mmol), EDC (238 mg, 1.24 mmol) and HOBt.H2O (15.0 mg, 0.11 mmol). The reaction was stirred overnight then partitioned between EtOAc and water. The aqueous layer was then extracted with EtOAc (3×). The combined organic layers were washed with brine, dried (MgSO4), filtered and evaporated in vacuo. The residue was purified by FCC, using 0-10% [2M NH3 in MeOH] in DCM, to give the title compound (375 mg, 98%). LCMS (Method 1): Rt 2.69, m/z 341.2 [MH+].

reactant | (5-fluoro-pyridin-2-yl)-hydrazine | 1.13 mmol, 143 mg | FC=1C=CC(=NC1)NN | C5H6FN3
reactant | (R)-morpholine-3,4-dicarboxylic acid 4-tert-butyl ester | 1.13 mmol, 260 mg | C(C)(C)(C)OC(=O)N1[C@H](COCC1)C(=O)O | C10H17NO5
reactant | EDC | 1.24 mmol, 238 mg
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.11 mmol, 15.0 mg | O | H2O
solvent | DCM | 10.0 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-[N′-(5-Fluoro-pyridin-2-yl)-hydrazinocarbonyl]-morpholine-4-carboxylic acid tert-butyl ester | 375 mg, 98% | C(C)(C)(C)OC(=O)N1[C@H](COCC1)C(=O)NNC1=NC=C(C=C1)F | C15H21FN4O4
